US04436666
For example, the 2-aryl-1,3-cyclopentanediones may be prepared by the base-promoted cyclization of the appropriate δ-aryl levulinic acid ester. This is illustrated by reacting ethyl-5-(2',4'-dichlorophenyl)-4-ketopentanoate with sodium ethoxide in the presence of a toluene solvent to form 2-(2',4'-dichlorophenyl)-1,3-cyclopentanedione. The δ-aryl levulinic acid esters used as reactants in the above synthesis can be prepared using conventional esterification techniques of the appropriate δ-aryl levulinic acids.

reactant | ethyl-5-(2',4'-dichlorophenyl)-4-ketopentanoate | C(C)OC(CCC(CC1=C(C=C(C=C1)Cl)Cl)=O)=O | C13H14Cl2O3
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(2',4'-dichlorophenyl)-1,3-cyclopentanedione | ClC1=C(C=CC(=C1)Cl)C1C(CCC1=O)=O | C11H8Cl2O2
